data/mechanism_extracts/JACS/10.1021_jacs.4c10431_sup_1.json
{"doi": "10.1021_jacs.4c10431_sup_1", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical anodic oxidation of an α-methylstyrene-type substrate leading to benzylic/allylic hydroxylation (formation of 2) versus deprotonation to a diene-type product (3), with TEMPO trapping evidence for a radical-polar crossover via a benzylic cation intermediate INT2.", "mechanism_family": ["radical_polar_crossover", "radical_cation", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of the styrene substrate generates a styrene radical cation (INT1); after TEMPO radical rebound a closed-shell benzylic cation (INT2) is formed, which is then trapped by H2O (hydroxylation) or deprotonated by lutidine (diene formation). A second anodic oxidation of 2 leads onward to ketone product 4.", "key_intermediates": [{"name": "styrene-derived radical cation (INT1)", "smiles": "[CH2]=C([CH3])c1ccccc1.+", "role": "transient"}, {"name": "TEMPO-trapped benzylic cation (INT2)", "smiles": null, "role": "reactive"}, {"name": "TS_radical (radical rebound TS with TEMPO)", "smiles": null, "role": "transient"}, {"name": "TS_ionic (water addition TS, lutidine-assisted)", "smiles": null, "role": "transient"}, {"name": "TS-OH-term (terminal hydroxylation TS)", "smiles": null, "role": "transient"}, {"name": "TS-OH-benzyl (benzylic hydroxylation TS)", "smiles": null, "role": "transient"}, {"name": "TS-diene (deprotonation TS by lutidine)", "smiles": null, "role": "transient"}, {"name": "α-hydroxy TEMPO adduct (2, benzylic OH)", "smiles": "OC(c1ccccc1)(C=C)ON2C(C)(C)CCCC2(C)C", "role": "reactive"}, {"name": "allyl-TEMPO ether (3, deprotonation product)", "smiles": "C(=C)C(=C)(c1ccccc1)ON2C(C)(C)CCCC2(C)C", "role": "off_pathway"}, {"name": "oxidized bis-aminoxy/oxocarbenium INT3 en route to 4", "smiles": null, "role": "transient"}, {"name": "α-hydroxy aryl ketone (4)", "smiles": "OC(c1ccccc1)(C(=O)C)O", "role": "reactive"}, {"name": "TMP+ (oxoammonium)", "smiles": "O=[N+]1C(C)(C)CCCC1(C)C", "role": "transient"}], "electron_flow": "Anode removes one electron from the styrene to give a radical cation INT1; TEMPO couples to the terminal carbon (TS_radical, 1.7 kcal/mol) producing the benzylic cation INT2 (-23.8 kcal/mol), which partitions between H2O addition (benzylic vs terminal hydroxylation, giving 2 or 2') and lutidine-mediated deprotonation to diene 3; subsequent anodic oxidation of 2 generates INT3 that collapses to ketone 4 with release of TMP+.", "rate_determining_step": "On the productive surface, the lutidine/H2O-assisted ionic addition/deprotonation step from INT2 (TS-OH-benzyl 11.3, TS-diene 13.7, TS-OH-term 14.3 kcal/mol) is rate-limiting; the prior TEMPO radical-rebound is nearly barrierless (1.7 kcal/mol).", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "DFT shows near-barrierless radical rebound (TS_radical = 1.7 kcal/mol) onto the styrene radical cation to give the strongly stabilized adduct INT2 (-23.8 kcal/mol), supporting a stepwise radical-then-cation (radical-polar crossover) pathway over a direct ionic addition (TS_ionic = 19.6 kcal/mol)."}, {"name": "2,6-lutidine", "smiles": "Cc1cccc(C)n1", "purpose": "other", "observation": "Acts as Brønsted base in the deprotonation pathway (TS-diene, 13.7 kcal/mol) to deliver diene product 3, and as proton shuttle with H2O in the hydroxylation TSs."}, {"name": "H2O", "smiles": "O", "purpose": "intermediate_trap", "observation": "Nucleophile that traps cationic INT2 at the benzylic position (TS-OH-benzyl 11.3 kcal/mol, leading to 2 at -26.4) preferentially over the terminal position (TS-OH-term 14.3, leading to 2' at -19.5)."}], "evidence_types_used": ["DFT", "intermediate_trap_TEMPO"], "evidence_strength": "medium", "notes": "Two competing mechanistic surfaces were computed: (i) a 'radical trapping / radical-polar crossover' route via TEMPO addition to the styrene radical cation forming closed-shell cation INT2, and (ii) a direct 'charge annihilation' ionic route via TS_ionic (19.6 kcal/mol) leading to 2'. The radical-polar crossover (favored) is far lower in energy. From INT2, three downstream pathways were compared: benzylic hydroxylation (favored, TS = 11.3, giving 2), deprotonation to diene 3 (TS = 13.7), and terminal hydroxylation (TS = 14.3, giving 2'). Subsequent oxidation of 2 generates ketone 4 with extrusion of TMP+ (Figure S19). NPA charge analysis on INT2 (C1 +0.21, C2 +0.37, C3 +0.21) rationalizes site selectivity."}
